US07381719B2
Add 6-[4-(3-hydroxy-propyl)-phenoxy]-nicotinamide (0.4051 g, 1.488 mmol) to a stirred solution of triethylamine (0.620 mL, 4.45 mmol) and anhydrous dimethylsulfoxide (4.5 mL). Dissolve pyridine sulfur trioxide (0.7023 g, 4.413 mmol) in anhydrous dimethylsulfoxide (4.5 mL) and add this solution via a cannula to the above stirred solution under nitrogen. Stir the reaction at room temperature for 1 h under nitrogen. Pour the reaction into ice water (50 mL), extract with ethyl acetate (3×50 mL), dry the ethyl acetate extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 100% ethyl acetate to yield 0.1428 g (36%) of 6-[4-(3-oxo-propyl)-phenoxy]-nicotinamide: mass spectrum (ion spray): m/z=271.2 (M+1); 1H NMR (CDCl3): 9.84 (t, 1H), 8.58 (d, 1H), 8.16 (dd, 1H), 7.26-7.23 (m, 2H), 7.09-7.05 (m, 2H), 6.95 (d, 1H), 6.02 (br s, 2H), 2.98 (t, 2H), 2.82 (t, 2H).

reactant | 6-[4-(3-hydroxy-propyl)-phenoxy]-nicotinamide | 1.488 mmol, 0.4051 g | OCCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C15H16N2O3
reactant | triethylamine | 4.45 mmol, 0.620 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine sulfur trioxide | 4.413 mmol, 0.7023 g | S(=O)(=O)=O.N1=CC=CC=C1
solvent | dimethylsulfoxide | 4.5 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 4.5 mL | CS(=O)C | C2H6OS
product | 6-[4-(3-oxo-propyl)-phenoxy]-nicotinamide | 0.1428 g, 36% | O=CCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C15H14N2O3
